US05886191
3-(4-Paratoluensulfonylpiperazinecarbonyl)methyl-5-cyanoindole.
To a stirred solution of 3-(piperazinecarbonyl)methyl-5-cyanoindole hydrochloride (200 mg, 0.66 mmol) and triethylamine (134 mg, 185 μL) in chloroform was added toluenesulfonylchloride (126 mg, 0.66 mmol). After stirring for 18 h at rt under a nitrogen atmosphere, the reaction was quenched with water, extracted with chloroform, washed with 1N HCl, sat sodium bicarbonate, and brine, dried with sodium sulfate, filtered and concentrated in vacuo to afford 237 mg of product. LRMS (M+H)+ 423.

reactant | 3-(piperazinecarbonyl)methyl-5-cyanoindole hydrochloride | 0.66 mmol, 200 mg | Cl.N1(CCNCC1)C(=O)CC1=CNC2=CC=C(C=C12)C#N
reactant | triethylamine | 185 μL, 134 mg | C(C)N(CC)CC | C6H15N
reactant | toluenesulfonylchloride | 0.66 mmol, 126 mg | C=1(C(=CC=CC1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 3-(4-Paratoluensulfonylpiperazinecarbonyl)methyl-5-cyanoindole | 237 mg | C1(=CC=C(C=C1)S(=O)(=O)N1CCN(CC1)C(=O)CC1=CNC2=CC=C(C=C12)C#N)C | C22H22N4O3S
